US04258188
2-(4-METHYL-1-PIPERAZINYL)CYCLOHEPTIMIDAZOLE (I: R1 is methyl)
4-Methyl-1-piperazinecarboximidamide hydroiodide (17.8 g) was suspended in ethanol (15 ml). Sodium (1.5 g) in ethanol (47.8 ml) was added to it. The mixture was stirred at room temperature for 30 min. A solution of 2-methoxy-2,4,6-cycloheptatrien-1-one in ethanol (12 ml) was added dropwise. The mixture was refluxed for 3 hr and evaporated. The residue was taken in water and extracted with ethyl acetate in a continuous extractor. The organic layer was dried and evaporated. The residue was chromatographed through a column of silica gel using 5% methanol in chloroform and the eluates were evaporated. The residue was taken up in diethyl ether and filtered. The precipitate was crystallized from diethyl ether-hexane to obtain the title compound (3.4 g): mp 93°-95° C.; ir (CHCl3) 1600, 1565 and 1523 cm-1 ; uv max (MeOH) 291 (ε7,280), 262(ε28,445) and 238 nm(ε23,970); nmr-(CDCl3) δ 2.3(3H,s), 2.5(4H,t), 4.0(4H,t) and 7.2-8.0(5H,m) and Anal. Calcd for C13H16N4 : C, 68.39 % H, 7.06% N, 24.54% N, 24.54% and Found: C, 68.45% H, 6.99% N, 24.27%.

reactant | 4-Methyl-1-piperazinecarboximidamide hydroiodide | 17.8 g | I.CN1CCN(CC1)C(N)=N
reactant | Sodium | 1.5 g | [Na] | Na
reactant | 2-methoxy-2,4,6-cycloheptatrien-1-one | COC=1C(C=CC=CC1)=O | C8H8O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 47.8 ml | C(C)O | C2H6O
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 2-(4-METHYL-1-PIPERAZINYL)CYCLOHEPTIMIDAZOLE | 3.4 g | CN1CCN(CC1)C=1N=C2C(N1)=CC=CC=C2 | C13H16N4
